US08877780B2
To a stirred mixture of 3-(5-Aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride (0.50 g, 1.60 mmol) and picolinoyl chloride hydrochloride (0.29 g, 1.60 mmol) in N,N-dimethylformamide (20 mL), was added triethylamine (0.67 mL, 4.80 mmol) at room temperature under nitrogen. After 18 h, water (100 mL) was added and the product was extracted with CH2Cl2 (3×150 mL). The organic layers were combined, washed with water (3×150 mL), dried (MgSO4) and concentrated in vacuo. The resulting residue was triturated in Et2O (50 mL) for 18 h. The product was isolated by filtration, washed with Et2O (25 mL) and dried in vacuo to give pyridine-2-carboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide as a white solid (0.31 g, 51% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 20/80 CH3CN/0.1% H3PO4, 5.52 min (97.80%); mp: 229-231° C.; 1H NMR (DMSO-d6) δ 1.86-2.11 (m, 1H, CHH), 2.24-2.47 (m, 1H, CHH), 2.59 (d, J=17.0 Hz, 1H, CHH), 2.79-3.06 (m, 1H, CHH), 4.30 (d, J=17.4 Hz, 1H, CHH), 4.44 (d, J=17.4 Hz, 1H, CHH), 4.61 (d, J=6.4 Hz, 2H, CH2), 5.10 (dd, J=4.9, 13.2 Hz, 1H, CH), 7.48 (d, J=7.7 Hz, 1H, Ar), 7.54 (s, 1H, Ar), 7.58-7.65 (m, 1H, Ar), 7.68 (d, J=7.9 Hz, 1H, Ar), 7.89-8.19 (m, 2H, Ar), 8.67 (d, J=4.5 Hz, 1H, Ar), 9.49 (t, J=6.3 Hz, 1H, NH), 10.98 (s, 1H, NH); 13C NMR (DMSO-d6) δ 22.50, 31.19, 42.51, 47.11, 51.58, 122.02, 122.18, 122.93, 126.62, 127.20, 130.36, 137.81, 142.35, 143.82, 148.47, 149.89, 164.07, 167.92, 170.98, 172.85; LCMS: MH=379; Anal Calcd for C20H18N4O4+0.1H2O: C, 63.18; H, 4.83; N, 14.74. Found: C, 62.80; H, 4.86; N, 14.69.

reactant | 3-(5-Aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride | 1.60 mmol, 0.50 g | Cl.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | picolinoyl chloride hydrochloride | 1.60 mmol, 0.29 g | Cl.N1=C(C=CC=C1)C(=O)Cl
reactant | triethylamine | 4.80 mmol, 0.67 mL | C(C)N(CC)CC | C6H15N
reactant | water | 100 mL | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | pyridine-2-carboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide | 0.31 g, 51% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(=O)C1=NC=CC=C1)=O)=O | C20H18N4O4
